US05869684
A mixture of 1.23 g of 1-tert-butyl-4-(2-methylphenyl)-5-amino-pyrazolin-3-one, 1.84 g of 2-iodobutane, 2.1 g of potassium carbonate and 20 ml of ethanol was heated under reflux for 10 hours. The solvent was distilled off under reduced pressure, then, water was added, and the mixture was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate anhydride, then, the solvent was distilled off under reduced pressure. The residue was analyzed by 1H-NMR on the ratio of N-alkyl compound to O-alkyl compound being 16 to 84 was applied to column chromatography to obtain 250 ml (yield: 16%) of 1-tert-butyl-2-sec-butyl-4-(2-methylphenyl)-5-aminopyrazolin-3-one.

reactant | 1-tert-butyl-4-(2-methylphenyl)-5-amino-pyrazolin-3-one | 1.23 g | C(C)(C)(C)N1NC(C(C1N)C1=C(C=CC=C1)C)=O | C14H21N3O
reactant | 2-iodobutane | 1.84 g | IC(C)CC | C4H9I
reactant | potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-tert-butyl-2-sec-butyl-4-(2-methylphenyl)-5-aminopyrazolin-3-one | 250 ml, yield: 16% | C(C)(C)(C)N1N(C(C(C1N)C1=C(C=CC=C1)C)=O)C(C)CC | C18H29N3O
